US04146715
A solution of trimethylsilylated guanine in benzene (25 ml) prepared as in Example 6 (from 2.0 g of guanine) containing triethylamine was heated at reflux and 3-benzoyloxypropoxymethyl chloride (2.96 g) dissolved in benzene (15 ml) was added over a 3 hour period. The reaction mixture was heated at reflux under nitrogen overnight. The solvent was removed under reduced pressure, and 95% ethanol and methanol were added to the residual oil. The mixture was heated on a steam bath for several minutes and the solvent then evaporated under reduced pressure. Chloroform (200 ml) was added and the resulting solid removed by filtration. The solid was dissolved in a minimal amount of DMF, filtered (to remove any guanine present) and reprecipitated by the addition of water. Recrystallization from methanol (with charcoaling) gave 9-(3-benzoyloxypropoxymethyl)guanine (0.94 g) as a pale yellow solid, m.p. 198°-201° C.

reactant | guanine | 2.0 g | N1C(N)=NC=2N=CNC2C1=O | C5H5N5O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 3-benzoyloxypropoxymethyl chloride | 2.96 g | C(C1=CC=CC=C1)(=O)OCCCOCCl | C11H13ClO3
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
product | 9-(3-benzoyloxypropoxymethyl)guanine | 0.94 g | C(C1=CC=CC=C1)(=O)OCCCOCN1C=2N=C(NC(C2N=C1)=O)N | C16H17N5O4
